US08685974B2
To a solution of 1-(3-chlorothiophen-2-yl)-2-(pyridin-4-yl)prop-2-en-1-one (1 eq, 27 mmol) in anhydrous N,N-dimethylformamide (40 mL) was added N,N-dimethylformamide dimethyl acetal (4 eq, 108 mmol). The reaction mixture was stirred under reflux for 1.5 h. The mixture was diluted with water (600 mL) and extracted with dichloromethane (4×200 mL) and ethylacetate (4×200 mL). The combined extracts were washed with water, brine, dried over Na2SO4 and concentrated. The obtained residue was purified by column chromatography on silica gel (DCM:MeOH, 40:1 to 20:1) to afford intermediate 5.9 g of 1-(3-chlorothiophen-2-yl)-3-(dimethylamino)-2-(pyridin-4-yl)prop-2-en-1-one (74% yield).

reactant | 1-(3-chlorothiophen-2-yl)-2-(pyridin-4-yl)prop-2-en-1-one | 27 mmol, 1 eq | ClC1=C(SC=C1)C(C(=C)C1=CC=NC=C1)=O | C12H8ClNOS
reactant | N,N-dimethylformamide dimethyl acetal | 108 mmol, 4 eq | COC(N(C)C)OC | C5H13NO2
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | water | 600 mL | O | H2O
product | 1-(3-chlorothiophen-2-yl)-3-(dimethylamino)-2-(pyridin-4-yl)prop-2-en-1-one | 5.9 g, 74% yield | ClC1=C(SC=C1)C(C(=CN(C)C)C1=CC=NC=C1)=O | C14H13ClN2OS
